US07384963B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-{3-[(3-phenylureido)methyl]phenyl}-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and N-(3-aminobenzyl)-N′-phenylurea using method J. NMR; δH [2H6]—DMSO 10.36,(1H, b), 8.57,(1H, s), 8.06,(2H, d), 7.90,(1H, dd), 7.78,(2H, m), 7.69,(1H, dd), 7.57,(3H, m), 7.39,(3H, m), 7.21,(2H, m), 7.05,(1H, d), 6.62,(1H, t), 4.31,(2H, d), 2.57,(3H, s), 2.33,(3H, s). LCMS; retention time 3.55 min, MH+ 518.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | N-(3-aminobenzyl)-N′-phenylurea | NC=1C=C(CNC(=O)NC2=CC=CC=C2)C=CC1 | C14H15N3O
product | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-{3-[(3-phenylureido)methyl]phenyl}-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NC1=CC(=CC=C1)CNC(=O)NC1=CC=CC=C1 | C31H27N5O3
